US07074798B2
c) 4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-7-(2-formylphenyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
2,2-Dimethylpropionic acid [8-chloro-1-(2,2-dimethyl-propionyloxymethyl)-7-(2-formylphenyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester (2.0 g) and piperazine-1-carboxylic acid tert-butyl ester (2.15 g) were mixed, and the mixture was stirred at 150° C. for 1 hour and 10 minutes. The reaction mixture was diluted with chloroform and purified by silica gel column chromatography to give 1.94 g of the title compound from the elution fraction of hexane-ethyl acetate (1:1).

reactant | 2,2-Dimethylpropionic acid [8-chloro-1-(2,2-dimethyl-propionyloxymethyl)-7-(2-formylphenyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester | 2.0 g | ClC1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=O)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C24H27ClN4O7
reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.15 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-7-(2-formylphenyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 1.94 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=O)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C33H44N6O9
